US09428510B2
0.048 g (1.19 mmol) of sodium hydride is added at 0° C. to 0.200 g (0.598 mmol) of 1-tert-butyl-5-(3,5-difluorophenylthio)-1H-pyrazolo[3,4-b]pyridin-3-amine dissolved in 10 ml of anhydrous dimethylacetamide. The reaction is left under stirring for 10 minutes. 0.130 g (0.598 mmol) of 1-(4-isocyanatophenyl)-4-methylpiperazine is then added at 0° C. The mixture is left under stirring for 3 hours at room temperature. The reaction is treated by adding 20 ml of water drop by drop at 0° C. and then is extracted with ethyl acetate. The organic phase is dried on sodium sulfate, filtered and concentrated. The product is purified by silica chromatography to yield 0.150 g (yield=45%) of 1-(1-tert-butyl-5-(3,5-difluorophenylthio)-1H-pyrazolo[3,4-b]pyridin-3-yl)-3-(4-(4-methylpiperazin-1-yl)phenyl)urea in the form of a light brown solid.

reactant | sodium hydride | 1.19 mmol, 0.048 g | [H-].[Na+]
reactant | 1-tert-butyl-5-(3,5-difluorophenylthio)-1H-pyrazolo[3,4-b]pyridin-3-amine | 0.598 mmol | C(C)(C)(C)N1N=C(C=2C1=NC=C(C2)SC2=CC(=CC(=C2)F)F)N | C16H16F2N4S
reactant | 1-(4-isocyanatophenyl)-4-methylpiperazine | 0.598 mmol, 0.130 g | N(=C=O)C1=CC=C(C=C1)N1CCN(CC1)C | C12H15N3O
reactant | water | 20 ml | O | H2O
solvent | dimethylacetamide | 10 ml | CC(=O)N(C)C | C4H9NO
product | 1-(1-tert-butyl-5-(3,5-difluorophenylthio)-1H-pyrazolo[3,4-b]pyridin-3-yl)-3-(4-(4-methylpiperazin-1-yl)phenyl)urea | 0.150 g, yield=45% | C(C)(C)(C)N1N=C(C=2C1=NC=C(C2)SC2=CC(=CC(=C2)F)F)NC(=O)NC2=CC=C(C=C2)N2CCN(CC2)C | C28H31F2N7OS
